US08735424B2
Synthesis of 6-chloro-1,7-naphthyridin-4-ol
A solution of N-(4-acetyl-6-chloropyridin-3-yl)-4-nitrobenzenesulfonamide (1.0 equiv.), dimethylformamidedimethylacetal (4.8 equiv.) and DIEA (4.8 equiv.) in DMF (0.15 M) was heated under Ar at 110° C. for 96 hours. Upon cooling, thiophenol (4.9 equiv.) was added and the solution was stirred at rt for 15 hours. The volatiles were removed in vacuo and following silica gel purification (0-1.5-3-5% MeOH/CH2Cl2) 6-chloro-1,7-naphthyridin-4-ol was obtained (55%). LC/MS=180.9/182.9 (M+H), LC=1.41 min

reactant | N-(4-acetyl-6-chloropyridin-3-yl)-4-nitrobenzenesulfonamide | 1.0 equiv. | C(C)(=O)C1=C(C=NC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H10ClN3O5S
reactant | DIEA | 4.8 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophenol | 4.9 equiv. | C1(=CC=CC=C1)S | C6H6S
solvent | DMF | 0.15 M | CN(C)C=O | C3H7NO
product | 6-chloro-1,7-naphthyridin-4-ol | ClC=1C=C2C(=CC=NC2=CN1)O | C8H5ClN2O
